US09403835B2
Step 2: 3-(2-carboxy-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (1.37 g; 15.10 mmol; 5.5 eq.) and sodium dihydrogenphosphate (1.19 g; 9.89 mmol; 3.6 eq.) in water (8 mL) was added dropwise to a mixture of 2-methyl-2-butene (2.7 mL) and 3-(2-formyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester (800 mg; 2.75 mmol; 1 eq.) in 1,4-dioxane (8 mL) and the resulting mixture was stirred at room temperature for 1 hour. The 1,4-dioxane was evaporated in vacuo, water was added and the pH made acidic with 1M HCl. The precipitate was filtered off to afford the title compound (827 mg, 98%) as a white solid. HPLC (max plot) 100%; Rt 3.58 min. UPLC/MS: (MS−) 306.4 ([M−H]−).

reactant | sodium chlorite | 15.10 mmol, 1.37 g, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 9.89 mmol, 1.19 g, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 2.7 mL | CC(C)=CC | C5H10
reactant | 3-(2-formyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 2.75 mmol, 800 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC=C1)C=O | C16H21NO4
solvent | water | 8 mL | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3-(2-carboxy-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 827 mg, 98% | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC=C1)C(=O)O | C16H21NO5
